US07067517B2
Methyl-phenyl-carbamic acid 6-methyl-pyridin-3-yl ester
The title product was prepared from 3-hydroxy-6-methyl-pyridine and N-methyl-N-phenylcarbamoyl chloride. The crude product was subjected to preparative HPLC. (79%, colourless oil). HPLC-MS: m/z=243.1 (M+1); Rt: 2.24 min.

reactant | 3-hydroxy-6-methyl-pyridine | OC=1C=NC(=CC1)C | C6H7NO
reactant | N-methyl-N-phenylcarbamoyl chloride | CN(C(=O)Cl)C1=CC=CC=C1 | C8H8ClNO
product | Methyl-phenyl-carbamic acid 6-methyl-pyridin-3-yl ester | CC1=CC=C(C=N1)OC(N(C1=CC=CC=C1)C)=O | C14H14N2O2
